US06545017B1
Ammonium acetate (500 g) and tert-butyl 3-[2-(ethoxymethyl)-6,7-dimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]propylcarbamate (35.09 g, 77 mmol) were combined in a 2 L flask. The neck of the flask was stuffed with a wad of paper towels. The reaction mixture was heated with stirring at 150° C. for 27 hours. The reaction mixture was allowed to cool to ambient temperature and then it was placed in an ice bath. Ammonium hydroxide was added until the pH reached 11. Sodium hydroxide (50%) was added until the pH reached 14. The resulting precipitate was isolated by filtration and then dissolved in chloroform (4 L). The chloroform solution was divided into two portions and each was washed with saturated potassium carbonate (2×2 L). The organics were combined, dried over magnesium sulfate and then concentrated under reduced pressure to provide 30.3 g of crude product. This material was slurried with methyl acetate to provide 13.7 g of N-{3-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propyl}acetamide as a gray solid, m.p. 161.8-162.3° C. Analysis: Calculated for C16H25N5O2: %C, 60.17; %H, 7.89; %N, 21.93; Found: %C, 59.97; %H, 7.70; %N, 22.19.

reactant | Ammonium acetate | 500 g | C(C)(=O)[O-].[NH4+]
reactant | tert-butyl 3-[2-(ethoxymethyl)-6,7-dimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl]propylcarbamate | 77 mmol, 35.09 g | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCCNC(OC(C)(C)C)=O | C25H34N4O4
reactant | Ammonium hydroxide | [OH-].[NH4+]
reactant | Sodium hydroxide | [OH-].[Na+]
reactant | methyl acetate | C(C)(=O)OC | C3H6O2
solvent | chloroform | 4 L | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]propyl}acetamide | 13.7 g | NC1=NC(=C(C2=C1N=C(N2CCCNC(C)=O)COCC)C)C | C16H25N5O2
